US05250527
2 -(4 -amino-5 -bromo-2 -pyridylmethylthio)-5 -methoxy-(1H)-benzimidazole (0.58 g, 0.0016 M) was dissolved in dichloromethane (160 ml) and cooled to -40°. m-Chloroperbenzoic acid (0.33 g, 0.0019 M) in dichloromethane (10 ml) was added dropwise over 20 mins, keeping the temperature at 30 ° to -40°. The solution was stirred at -30 ° for 1 hour and then stored at -20 ° overnight, or until reaction was complete. Ammonia was then bubbled through the solution at 50, the mixture allowed to warm up to room temperature, and then filtered. The filtrate and washings were washed with 10 % Na2CO3 (10 ml) an dried. Back extraction of the aqueous layers with dichloromethane (3×100 ml) gave further organic layers which were dried and combined with layers obtained from the first extraction. Evaporation of the combined organic layers gave a brown solid. Purification, by heating in presence of decolouring charcoal in ethyl acetate/methanol, followed by recrystallisation from methanol gave 2 -(4 -amino-5 -bromo-2 -pyridylmethylsulphinyl)-5 -methoxy-(1H)-benzimidazole, 0.21 g, m.p. 130°-132°.

reactant | 2 -(4 -amino-5 -bromo-2 -pyridylmethylthio)-5 -methoxy-(1H)-benzimidazole | 0.0016 M, 0.58 g | NC1=CC(=NC=C1Br)CSC1=NC2=C(N1)C=CC(=C2)OC | C14H13BrN4OS
reactant | m-Chloroperbenzoic acid | 0.0019 M, 0.33 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2 -(4 -amino-5 -bromo-2 -pyridylmethylsulphinyl)-5 -methoxy-(1H)-benzimidazole | NC1=CC(=NC=C1Br)CS(=O)C1=NC2=C(N1)C=CC(=C2)OC | C14H13BrN4O2S
